US06492394B1
To a cooled (ice bath) solution of tert-butyl 2(R)-(2,6-dimethyl-4-methoxybenzene sulfonylamino)-3-phthalimido-propionate (6.9 g, 14.12 mmol) in dry benzene (150 ml) with piperonyl alcohol (3.22 g, 21.2 mmol) and tributyl phosphine (5.3 ml, 21.2 mmol) was added 1,1′-(azodicarbonyl)-dipiperidine (5.35 g, 21.2 mmol). The mixture was allowed to warm to ambient temperature overnight. The material was loaded onto a flash silica gel column using ethyl acetate-hexanes (30%) as eluant, providing tert-butyl 2(R)-[(3,4-methylendioxybenzyl)-(2,6-dimethyl-4-methoxybenzenesulfonyl)amino]-3-phthalimido-propionate as a white solid (8.59 g).

reactant | tert-butyl 2(R)-(2,6-dimethyl-4-methoxybenzene sulfonylamino)-3-phthalimido-propionate | 14.12 mmol, 6.9 g | CC1=C(C(=CC(=C1)OC)C)S(=O)(=O)N[C@@H](C(=O)OC(C)(C)C)CN1C(C=2C(C1=O)=CC=CC2)=O | C24H28N2O7S
reactant | piperonyl alcohol | 21.2 mmol, 3.22 g | C(C1=CC=2OCOC2C=C1)O | C8H8O3
reactant | tributyl phosphine | 21.2 mmol, 5.3 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 21.2 mmol, 5.35 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | tert-butyl 2(R)-[(3,4-methylendioxybenzyl)-(2,6-dimethyl-4-methoxybenzenesulfonyl)amino]-3-phthalimido-propionate | 8.59 g | C1OC=2C=C(CN([C@@H](C(=O)OC(C)(C)C)CN3C(C=4C(C3=O)=CC=CC4)=O)S(=O)(=O)C4=C(C=C(C=C4C)OC)C)C=CC2O1 | C32H34N2O9S
